US07560596B2
Synthesis of 3,5-dimethyl-4-phenoxathiin-4-yl-phenol (FIG. 4, Entry 1)
The general procedure described in Example 3 was used with 4-chloro-3,5-dimethyl-phenol (156 mg, 1.00 mmol), 4-phenoxathiineboronic acid (293 mg, 1.20 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (3.0 mL), 12 h, 100° C. The product was isolated as a colorless oil (277 mg, 85%), which became a white solid upon standing. Mp=116° C. 1H NMR (400 MHz, CDCl3) δ: 7.20 (m, 2H), 7.01-7.16 (m, 3H), 6.96 (d, 1H, J=7.6 Hz), 6.73 (m, 3H), 5.64 (s, 1H), 2.04 (s, 6H). 13C NMR (125 MHz, CDCl3) δ: 154.6, 152.6, 149.9, 138.3, 130.2, 129.9, 129.5, 127.8, 126.8, 126.1, 124.7, 124.6, 121.2, 121.1, 118.2, 114.2, 20.9. IR (neat, cm−1): 3367, 1593, 1471, 1419, 1311, 1265, 1223, 1154, 1026, 752. Anal. Calcd for C20H16O2S: C, 74.97; H, 5.03. Found: C, 74.88; H, 4.99.

reactant | 4-chloro-3,5-dimethyl-phenol | 1.00 mmol, 156 mg | ClC1=C(C=C(C=C1C)O)C | C8H9ClO
reactant | 4-phenoxathiineboronic acid | 1.20 mmol, 293 mg | C1=CC=C(C=2OC3=CC=CC=C3SC12)B(O)O | C12H9BO3S
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 3.0 mL | O | H2O
product | 3,5-dimethyl-4-phenoxathiin-4-yl-phenol | 277 mg, 85% | CC=1C=C(C=C(C1C1=CC=CC=2SC3=CC=CC=C3OC12)C)O | C20H16O2S
